US05876830
(3-Ethylthiopropyl)dimethylsilyl chloride (25)
3-Ethylthiopropyl chloride (7.00 g, 50 mmol) was dropped slowly into Mg turnings (1.22 g, 50 mmol) activated with 2 drops of Br2 in Et2O (70 mL). After 12 h of reflux the Grignard reagent was added to Me2SiCl2 (25.8 g, 200 mmol) in diethyl ether (100 mL). After refluxing for 18 h under mechanical stirring the Mg salts were filtered off, washed with Et2O (2×25 mL), and the solvent was evaporated from the combined filtrates. The residue was fractionally distilled: 45° C./0.01 torr, 4.20 g, 42%.

reactant | 3-Ethylthiopropyl chloride | 50 mmol, 7.00 g | C(C)SCCCCl | C5H11ClS
reactant | Me2SiCl2 | 200 mmol, 25.8 g | [Si](Cl)(Cl)(C)C | C2H6Cl2Si
catalyst | Br2 | 2 drops | BrBr | Br2
solvent | Et2O | 70 mL | CCOCC | C4H10O
solvent | diethyl ether | 100 mL | C(C)OCC | C4H10O
product | (3-Ethylthiopropyl)dimethylsilyl chloride | C(C)SCCC[Si](C)(C)Cl | C7H17ClSSi
